US05587392
Synthesis of 2-hydroxymethyl-4-methoxyphenol
Under ice cooling, the solution of 5-methoxysalicylaldehyde (5 g) in ether (20 ml) was slowly added dropwise to the suspension of LiAlH4 (0.75 g) in ether (50 ml). After stirring at room temperature for 2 hours, another addition of LiAlH4 (0.5 g) was carried out under ice cooling, with subsequent stirring at room temperature for 30 minutes. To the reaction solution was added ice carefully, followed by sequential addition of 1N HCl and ether. After filtering off insoluble materials using Celite™, the ether layer was separated from the filtrate, and then, the aqueous phase was further extracted with ether. The combined ether layers were washed with saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was washed with ether-hexane and filtered to give the title compound (3.9 g; 77%).

reactant | 5-methoxysalicylaldehyde | 5 g | COC1=CC=C(C(C=O)=C1)O | C8H8O3
reactant | LiAlH4 | 0.75 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 0.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 1N | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-hydroxymethyl-4-methoxyphenol | 3.9 g, 77% | OCC1=C(C=CC(=C1)OC)O | C8H10O3
